US07834039B2
(Z)-3-chloro-N′-hydroxy-4-isopropoxybenzimidamide (0.5 g, 2.187 mmol), 4-amino-2-chlorobenzoic acid (0.413 g, 2.405 mmol), DCC (0.496 g, 2.405 mmol), HOBT (0.368 g, 2.405 mmol) were placed in an 80 ml microwave vial and Acetonitrile (12.01 ml) was added. The reaction mixture was stirred for 5 minutes at room temperature before the addition of DIEA (0.840 ml, 4.81 mmol). The reaction mixture was heated to 120° C. for 30 min in a microwave. TLC (50% EA/Hept) indicated 4 spots Rf 0.8, 0.6, 0.5 and 0.3. LCMS (2007—9349) indicated by UV 16% (2.61 mins) to (M+H) 364.31. The solvent was removed and the crude material purified by FCC (50% EA/Hept) to afford 3-chloro-4-(3-(3-chloro-4-isopropoxyphenyl)-1,2,4-oxadiazol-5-yl)aniline (534 mg, 1.466 mmol, 67.1% yield). LCMS (Table A, Method b) indicated a 99% by UV (3.10 mins) and 92% by ELSD (3.06 mins) to (M+H)+ 364.12.

reactant | (Z)-3-chloro-N′-hydroxy-4-isopropoxybenzimidamide | 2.187 mmol, 0.5 g | ClC=1C=C(/C(/N)=N/O)C=CC1OC(C)C | C10H13ClN2O2
reactant | 4-amino-2-chlorobenzoic acid | 2.405 mmol, 0.413 g | NC1=CC(=C(C(=O)O)C=C1)Cl | C7H6ClNO2
reactant | DCC | 2.405 mmol, 0.496 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
reactant | HOBT | 2.405 mmol, 0.368 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | DIEA | 4.81 mmol, 0.840 ml | CCN(C(C)C)C(C)C | C8H19N
solvent | EA | CC(OCC)=O | C4H8O2
solvent | Acetonitrile | 12.01 ml | C(C)#N | C2H3N
product | 3-chloro-4-(3-(3-chloro-4-isopropoxyphenyl)-1,2,4-oxadiazol-5-yl)aniline | 1.466 mmol, 534 mg, 67.1% yield | ClC=1C=C(N)C=CC1C1=NC(=NO1)C1=CC(=C(C=C1)OC(C)C)Cl | C17H15Cl2N3O2
